US05021428
[4-(1-methylethyl)phenyl]1-(2-phenylethyl)-piperidinyl]-methanone HCl. A solution of [4-(1-methylethyl)phenyl](4-piperidinyl)-methanone (43 g, 0.19 mol) in toluene (500 ml) was treated with 2-bromoethylbenzene (37 g, 0.2 mol), K2CO3 (25 g, 0.18 mol), KHCO3 (25 g, 0.25 mol) and potassium iodide (0.1 g) and the mixture heated on a steam bath for 68 h. The reaction mixture was filtered and the filtrate treated with ethereal hydrogen chloride until acid to congo red indicator paper. The resultant precipitate was filtered off and recrystallized twice from CH3OH/butanone to give [4-(1-methylethyl)-phenyl][1-(2-phenylethyl)piperidinyl-methanone hydrochloride, mp 251°-253° C. By following the sodium borohydride reduction procedure of the foregoing example there is obtained the desired product of this example.

reactant | methanone HCl | Cl.C=O
reactant | [4-(1-methylethyl)phenyl](4-piperidinyl)-methanone | 0.19 mol, 43 g | CC(C)C1=CC=C(C=C1)C(=O)C1CCNCC1 | C15H21NO
reactant | 2-bromoethylbenzene | 0.2 mol, 37 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 0.18 mol, 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-phenylethyl)piperidinyl-methanone hydrochloride | Cl.C1(=CC=CC=C1)CCN1C(CCCC1)C=O | InChI=1S/C14H19NO.ClH/c16-12-14-8-4-5-10-15(14)11-9-13-6-2-1-3-7-13;/h1-3,6-7,12,14H,4-5,8-11H2;1H
